data/mechanism_extracts/JACS/10.1021_jacs.4c17657.json
{"doi": "10.1021_jacs.4c17657", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photoredox/pyridine N-oxide co-catalyzed regioselective carbohydroxylation and aminohydroxylation of unactivated alpha-olefins with water as the hydroxyl source", "mechanism_family": ["photoredox_combined", "radical_polar_crossover"], "electrochemical_role": null, "key_intermediates": [{"name": "excited-state acridinium photocatalyst PC2* (Mes-(tBu)2Acr-PhBF4)", "smiles": null, "role": "reactive"}, {"name": "pyridine N-oxy radical from 2,6-dichloropyridine N-oxide (1b•)", "smiles": null, "role": "reactive"}, {"name": "tertiary carbon-centered radical from anti-Markovnikov N-oxy radical addition to alpha-olefin (Int1)", "smiles": null, "role": "reactive"}, {"name": "Giese adduct radical with benzalmalononitrile (post C-C bond formation)", "smiles": null, "role": "transient"}, {"name": "stabilized malononitrile carbanion (Int3) after SET reduction by PC2-reduced", "smiles": null, "role": "reactive"}, {"name": "N-alkoxypyridinium trifluoroacetate intermediate (Int4) after protonation by TFA", "smiles": null, "role": "reactive"}, {"name": "reduced photocatalyst PC2 (acridine radical)", "smiles": null, "role": "transient"}], "electron_flow": "Photoexcited acridinium PC2* performs single-electron oxidation of pyridine N-oxide 1b to generate an electrophilic N-oxy radical, which adds to the terminal carbon of the alpha-olefin to give a more substituted C-radical; this radical undergoes Giese addition to benzalmalononitrile (or DIAD), and the resulting adduct radical is reduced by PC2-radical-anion (regenerating PC2) to a carbanion that is protonated by TFA, forming an N-alkoxypyridinium that undergoes SN-type substitution by water (TFA-activated) to deliver the primary alcohol and regenerate pyridine N-oxide.", "rate_determining_step": "Nucleophilic substitution of pyridine N-oxide from the N-alkoxypyridinium by water (TS_Sub, DFT free-energy barrier 24.3 kcal/mol), with water activated by trifluoroacetate counterion", "probe_reagents": [{"name": "H2-18O (95 atom% 18O)", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Carbohydroxylation of 2-ethyl-1-butene gave primary alcohol with 18O/16O = 92:8 (78% yield), confirming water as the hydroxyl source via nucleophilic substitution of N-alkoxypyridinium"}, {"name": "1,6-heptadiene (radical clock / intramolecular trap)", "smiles": "C=CCCCC=C", "purpose": "radical_clock", "observation": "Cyclization/carbohydroxylation gave disubstituted cyclopentane 32 in 52% yield, evidencing a discrete carbon radical intermediate"}, {"name": "Stern-Volmer fluorescence quenching with 1b", "smiles": null, "purpose": "redox_probe", "observation": "Excited PC2* quenched by 2,6-dichloropyridine N-oxide 1b (Ksv = 34.2) but not appreciably by alpha-olefin (Ksv = 1.8) or benzalmalononitrile, supporting initial SET to 1b"}, {"name": "tert-butanol (alternative nucleophile)", "smiles": "CC(C)(C)O", "purpose": "intermediate_trap", "observation": "Gave carboetherification product 33 (42%), trapping the N-alkoxypyridinium electrophile"}, {"name": "acetic acid / acetate buffer", "smiles": "CC(=O)O", "purpose": "intermediate_trap", "observation": "Gave carboesterification product 34 (56%), consistent with polar substitution on N-alkoxypyridinium"}, {"name": "4-pentenoic acid (intramolecular carboxylate)", "smiles": "OC(=O)CCC=C", "purpose": "intermediate_trap", "observation": "Delivered gamma-substituted delta-lactone 35, proof-of-principle for cyclization via N-alkoxypyridinium substitution"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "DFT", "product_isotope_distribution", "intermediate_trap_other", "UV_vis", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Two pathways were considered for alcohol formation from the N-alkoxypyridinium: (favored) water nucleophilic substitution regenerating pyridine N-oxide (supported by catalytic 1b loading and 18O labeling), vs (alternative) reductive N-O bond cleavage which would consume 1b stoichiometrically. Competing ortho-alkylation of pyridine N-oxide (product 3) and allylic C-H functionalization (product 4 with 2,6-dibromopyridine N-oxide 1d; product 35 from cyclohexene) are side pathways suppressed by using ortho-chlorinated 1b. Direct SET oxidation of the alpha-olefin is excluded because olefin oxidation potential (>+2.50 V vs SCE) exceeds PC2* (+2.15 V)."}
